US05314883
4-Chloro-5-(3,4-dimethoxybenzylamino)-6-(5-methoxycarbonylpentyloxy)-3(2H)-pyridazinone (Compound No. 1)
A mixture comprising 4.13 g of 4,5-dichloro-6-(5-methoxycarbonylpentyloxy)-3(2H)-pyridazinone, 6.70 g of 3,4-dimethoxybenzylamine, 130 ml of 1,4-dioxane and 130 ml of water, was refluxed with stirring overnight. The solvent was evaporated under reduced pressure, and water was poured to the residue, whereupon the product was extracted with chloroform. The extract was washed with dilute hydrochloric acid, water and brine in order, and was dried over sodium sulfate. Thereafter, the solvent was distilled off, and the residue was crystallized from chloroform-n-hexane-diethyl ether to obtain 5.28 g of the above identified compound as colorless crystals having a melting point of from 111° C. to 112° C.

reactant | 4,5-dichloro-6-(5-methoxycarbonylpentyloxy)-3(2H)-pyridazinone | 4.13 g | ClC=1C(NN=C(C1Cl)OCCCCCC(=O)OC)=O | C11H14Cl2N2O4
reactant | 3,4-dimethoxybenzylamine | 6.70 g | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | 1,4-dioxane | 130 ml | O1CCOCC1 | C4H8O2
solvent | water | 130 ml | O | H2O
product | 4-Chloro-5-(3,4-dimethoxybenzylamino)-6-(5-methoxycarbonylpentyloxy)-3(2H)-pyridazinone | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OC)OCCCCCC(=O)OC)=O | C20H26ClN3O6
